* source AJEETKR
C_C1         N00553 0  22u   
L_L5         N01799 GND_SIGNAL  10uH  
X_U11         N04335 N00553 N03794 N033131 N03533 N04833 0 UCC28730_NETLIST 
X_U2         N001370 0 N002492 N00374 DF10SA 
X_U6         N021541 N03533 CD214C-F3600 
R_R2         GND_SIGNAL N01799  2003  
R_R7         0 N03794  34k  
R_R9         N04320 N04335  2.21k  
L_L3         N01643 N00553  10uH  
C_C4         0 N03533  4.7u  
C_C2         N00553 0  22u   
X_U7         N00553 N011431 SMBJ11A 
X_U10         N01643 N04833 N04320 SPB17N80C3_L1 PARAMS:  DVTH=0 DRDSON=0
V_V2         N00211 N00374  
+SIN 0 325.269 60 0 0 0
L_L4         N02081 0  10uH  
R_R1         N00211 N001370  5  
R_R8         0 N04320  910m  
L_L1         N002492 N00553  470uH  
X_U4         N01643 N011431 CD214C-F3600 
R_R6         N033131 0  10k  
C_C3         N01799 GND_SIGNAL  1.2m   
R_R3         N03794 N02081  113k  
R_R4         N021541 N02081  22  
