**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* February 2001
*   SPICE3
* Nodes 1 and 2: AC input
* Nodes 3 and 4: +/- DC output
*$
.subckt df10sa 1 2 3 4
d1 1 3 legd
d2 2 3 legd
d3 4 1 legd
d4 4 2 legd
.model legd d is = 3.13961E-007 n = 2.2943 rs = 0.0350918
+ eg = 1.11 xti = 3
+ cjo = 1.77328E-011 vj = 0.464053 m = 0.24 fc = 0.5
+ tt = 2.88539E-006 bv = 1100 ibv = 0.05 af = 1 kf = 0
.ends

*$
