**********
* Bourns Inc
* SPICE Models
* SMBJxxxA Family
* 2019/09/29
**********
**********

* All rights reserved.  Copyright © 2018 Bourns, Inc.
*
* These SPICE models model the nominal behavior within the limitations
* of SPICE standard models.
*
* While the models strive to match actual device performance, not all
* aspects of the performance of these models may correspond to actual
* device behavior due to SPICE limitations.
*
* Simulations using these models should not be used to prove validity
* of circuit design or any aspects of performance, due to inherent
* inaccuracies of SPICE models.
*
* All simulations should be checked and correlated with actual bench
* measurements of typical devices.
*
* These models may be updated or changed without notice.

.SUBCKT SMBJ5.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.013meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0025 N=1.5 IBV=10m BV=6.7 CJO=3400p)
.ENDS

.SUBCKT SMBJ6.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.015meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0031 N=1.5 IBV=10m BV=7.02 CJO=3200p)
.ENDS

.SUBCKT SMBJ6.5A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.026meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0045 N=1.5 IBV=10m BV=7.02 CJO=3000p)
.ENDS

.SUBCKT SMBJ7.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.070meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0065 N=1.5 IBV=10m BV=8.19 CJO=2900p)
.ENDS

.SUBCKT SMBJ7.5A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.150meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0078 N=1.5 IBV=1m BV=8.77 CJO=2700p)
.ENDS

.SUBCKT SMBJ8.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.320meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0093 N=1.5 IBV=1m BV=9.36 CJO=2500p)
.ENDS

.SUBCKT SMBJ8.5A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.850meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0093 N=1.5 IBV=1m BV=9.92 CJO=2350p)
.ENDS

.SUBCKT SMBJ9.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   1.800meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0112 N=1.5 IBV=1m BV=10.55 CJO=2250p)
.ENDS

.SUBCKT SMBJ10A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   4meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0134 N=1.5 IBV=1m BV=11.70 CJO=2100p)
.ENDS

.SUBCKT SMBJ11A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   22meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0163 N=1.5 IBV=1m BV=12.85 CJO=2000p)
.ENDS

.SUBCKT SMBJ12A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   24meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0197 N=1.5 IBV=1m BV=14.00 CJO=1900p)
.ENDS

.SUBCKT SMBJ13A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   26meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0216 N=1.5 IBV=1m BV=15.15 CJO=1750p)
.ENDS

.SUBCKT SMBJ14A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   28meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0249 N=1.5 IBV=1m BV=16.40 CJO=1650p)
.ENDS

.SUBCKT SMBJ15A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   30meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0316 N=1.5 IBV=1m BV=17.60 CJO=1550p)
.ENDS

.SUBCKT SMBJ16A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   32meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0365 N=1.5 IBV=1m BV=18.75 CJO=1450p)
.ENDS

.SUBCKT SMBJ17A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   34meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0402 N=1.5 IBV=1m BV=19.90 CJO=1350p)
.ENDS

.SUBCKT SMBJ18A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   36meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0442 N=1.5 IBV=1m BV=21.05 CJO=1250p)
.ENDS

.SUBCKT SMBJ20A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   40meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0535 N=1.5 IBV=1m BV=23.35 CJO=1150p)
.ENDS

.SUBCKT SMBJ22A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   44meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0588 N=1.5 IBV=1m BV=25.65 CJO=1050p)
.ENDS

.SUBCKT SMBJ24A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   48meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0820 N=1.5 IBV=1m BV=28.10 CJO=950p)
.ENDS

.SUBCKT SMBJ26A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   52meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0902 N=1.5 IBV=1m BV=30.40 CJO=870p)
.ENDS

.SUBCKT SMBJ28A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   56meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1042 N=1.5 IBV=1m BV=32.75 CJO=800p)
.ENDS

.SUBCKT SMBJ30A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   60meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1261 N=1.5 IBV=1m BV=35.05 CJO=770p)
.ENDS

.SUBCKT SMBJ33A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   66meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1526 N=1.5 IBV=1m BV=38.65 CJO=720p)
.ENDS

.SUBCKT SMBJ36A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   72meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1846 N=1.5 IBV=1m BV=42.10 CJO=670p)
.ENDS

.SUBCKT SMBJ40A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   80meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.2234 N=1.5 IBV=1m BV=46.75 CJO=610p)
.ENDS

.SUBCKT SMBJ43A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   86meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.2703 N=1.5 IBV=1m BV=50.30 CJO=560p)
.ENDS

.SUBCKT SMBJ45A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   90meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.3271 N=1.5 IBV=1m BV=52.65 CJO=520p)
.ENDS

.SUBCKT SMBJ48A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   96meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.3597 N=1.5 IBV=1m BV=56.10 CJO=500p)
.ENDS

.SUBCKT SMBJ51A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   102meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.3958 N=1.5 IBV=1m BV=59.70 CJO=480p)
.ENDS

.SUBCKT SMBJ54A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   108meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.4743 N=1.5 IBV=1m BV=63.15 CJO=460p)
.ENDS

.SUBCKT SMBJ58A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   116meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.5122 N=1.5 IBV=1m BV=67.80 CJO=430p)
.ENDS

.SUBCKT SMBJ60A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   120meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.5532 N=1.5 IBV=1m BV=70.20 CJO=410p)
.ENDS

.SUBCKT SMBJ64A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   128meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.5975 N=1.5 IBV=1m BV=74.85 CJO=390p)
.ENDS

.SUBCKT SMBJ70A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   140meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.7527 N=1.5 IBV=1m BV=81.90 CJO=370p)
.ENDS

.SUBCKT SMBJ75A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   150meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.8779 N=1.5 IBV=1m BV=87.70 CJO=340p)
.ENDS

.SUBCKT SMBJ78A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   156meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.9481 N=1.5 IBV=1m BV=91.25 CJO=330p)
.ENDS

.SUBCKT SMBJ85A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   170meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.1944 N=1.5 IBV=1m BV=99.20 CJO=310p)
.ENDS

.SUBCKT SMBJ90A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   180meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.3931 N=1.5 IBV=1m BV=105.50 CJO=290p)
.ENDS

.SUBCKT SMBJ100A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   200meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.7549 N=1.5 IBV=1m BV=117.00 CJO=270p)
.ENDS

.SUBCKT SMBJ110A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   220meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=2.0469 N=1.5 IBV=1m BV=128.50 CJO=250p)
.ENDS

.SUBCKT SMBJ120A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   240meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=2.4794 N=1.5 IBV=1m BV=140.00 CJO=240p)
.ENDS

.SUBCKT SMBJ130A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   260meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=2.7848 N=1.5 IBV=1m BV=151.50 CJO=220p)
.ENDS

.SUBCKT SMBJ150A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   300meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=4.0918 N=1.5 IBV=1m BV=176.00 CJO=195p)
.ENDS

.SUBCKT SMBJ160A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   320meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=4.4192 N=1.5 IBV=1m BV=187.50 CJO=180p)
.ENDS

.SUBCKT SMBJ170A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   340meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=5.3528 N=1.5 IBV=1m BV=199.00 CJO=170p)
.ENDS

.SUBCKT SMBJ180A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   360meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=6.0122 N=1.5 IBV=1m BV=211.50 CJO=165p)
.ENDS

.SUBCKT SMBJ200A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   400meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=7.2824 N=1.5 IBV=1m BV=235.50 CJO=155p)
.ENDS

.SUBCKT SMBJ220A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   440meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=9.4728 N=1.5 IBV=1m BV=259.00 CJO=140p)
.ENDS

.SUBCKT SMBJ250A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   500meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=11.3603 N=1.5 IBV=1m BV=294.00 CJO=120p)
.ENDS

.SUBCKT SMBJ300A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   600meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=15.6688 N=1.5 IBV=1m BV=353.00 CJO=100p)
.ENDS

.SUBCKT SMBJ350A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   700meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=19.6688 N=1.5 IBV=1m BV=411.50 CJO=85p)
.ENDS

.SUBCKT SMBJ400A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   800meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=22.6688 N=1.5 IBV=1m BV=470.50 CJO=75p)
.ENDS

.SUBCKT SMBJ440A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   880meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=25.1689 N=1.5 IBV=1m BV=517.50 CJO=70p)
.ENDS

*IMPORTANT NOTICE: YOUR access to SPICE MODELS created by Bourns, Inc., a California corporation (“Bourns”), is conditioned on YOUR acceptance of and agreement to comply with the terms of this SPICE Model License Agreement (this “Agreement”).
*YOU confirm your acceptance of and agreement to comply with this Agreement by downloading a SPICE MODEL from the Bourns website.
*AGREEMENT
*1. As used herein, “YOU” and “YOUR” refer both to you as an individual and any entity on whose behalf you are downloading a SPICE MODEL.
*2. The information in each SPICE MODEL is protected under United States copyright laws.  Bourns grants YOU a non-exclusive, non-transferable, revocable license to use the downloaded SPICE MODEL and to modify the downloaded SPICE MODEL to
*enable use with YOUR specific application, subject to the condition that YOU fulfil the terms of this Agreement.
*3. YOU agree:
*A. That although YOU are permitted to modify the downloaded SPICE MODEL created by Bourns for YOUR specific applications, all rights to the modified SPICE MODEL and any derivatives from such modified SPICE MODEL shall revert to Bourns;
*B. YOU agree to mark “Modified by ________” in the header of the SPICE MODEL every version of downloaded SPICE MODEL YOU modified;
*C. Not to sell or redistribute or grant a license to any third party for a version of the downloaded SPICE MODEL that YOU have completely or partially modified, provided that YOU may share YOUR modified version with members of your
*organization who need to participate in testing by simulation;
*D. Not to create copies of a version of the downloaded SPICE MODEL that has been completely or partially modified by YOU, except for the members of your organization who need to participate in testing by simulation;
*E. To use only Bourns’ created SPICE MODELS that YOU have directly downloaded from this website; and
*F. To perform thorough testing using the actual device and not to rely on simulation results received using the downloaded SPICE MODEL.
*4. YOU further agree that the following DISCLAIIMERS are applicable to Bourns and its affiliates, agents and representatives, and YOUR use of the downloaded SPICE MODELS:
*A. While the downloaded SPICE MODEL is an effective tool for testing product performance by simulation, it does not simulate product performance in all test environments and is not intended to be a replacement for testing of the actual
*device by means of a test board or otherwise.
*B. Each SPICE MODEL is provided by Bourns AS IS, WHERE IS, AND WITH NO WARRANTY OF ANY KIND EITHER EXPRESSED OR IMPLIED, INCLUDING BUT NOT LIMITED TO ANY IMPLIED WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE.
*C. No assurances are offered that the SPICE MODEL will operate normally on all computer systems.
*D. No responsibility is assumed by Bourns for any discrepancies that may occur between the results of simulation using SPICE MODEL and the results of testing using the actual device.
*E. No responsibility is assumed by Bourns for any damages that occur directly or indirectly from the use of the downloaded SPICE MODEL.  BOURNS’ LIABILITY FOR DAMAGES TO YOU FOR ANY CAUSE WHATSOEVER, REGARDLESS OF THE FORM OF ANY CLAIM OR
*ACTION, SHALL IN NO EVENT EXCEED ONE HUNDRED US DOLLARS ($100.00 US).  IN NO EVENT SHALL BOURNS BE LIABLE FOR ANY LOSS OF DATA, PROFITS OR USE OF ANY DOWNLOADED SPICE MODEL, OR FOR ANY SPECIAL, INCIDENTAL, CONSEQUENTIAL OR OTHER INDIRECT
*DAMAGES ARISING OUT OF OR IN CONNECTION WITH THE USE OR PERFORMANCE OF THE DOWNLOADED SPICE MODEL.
*F. Bourns does not provide maintenance (including updates) or support services for the downloaded SPICE MODEL.
*G. Each downloaded SPICE MODEL is protected by copyright laws, and Bourns does not consent to the licensing of patent rights or other intellectual property rights (including those of third parties).
*5. This Agreement shall be governed by and construed in accordance with the laws of the State of California, without regard to its choice of law provisions.  The sole jurisdiction and venue for all actions related to the subject matter of
*this Agreement shall be the state and federal courts located in Riverside County, California.
*6. The United Nations Convention on Contracts for the International Sale of Goods is excluded in its entirety from this Agreement.
*7. The term of this Agreement shall commence when YOU download a SPICE MODEL and shall terminate when YOU stop using the downloaded SPICE MODEL, except that the provisions of Sections 3, 4 and 5 shall survive the termination of this Agreement.
*SPICE MODEL LICENSE AGREEMENT
*



