* PSpice Model Editor - Version 16.2.0
*$
.SUBCKT FWDR P1 P2 S1 S2 RS1 RS2 
*.SUBCKT FWDR P1 P2 RS1 RS2 S1 S2
* MODEL Type: Forward with reset winding Transformer
RP1 P1 PI 1.43
LP1 PI P2 415u
LS1 S1 SI1 2.752u
RS1 SI1 S2 0.015
LRS1 RS2 RSI 29.51u
RRSI RS1 RSI 0.632 
K1 LP1 LS1 LRS1 1
RG1 S2 0 1G
RG2 RS2 0 1G
.ends FWDR
*$
